US07425639B2
Stage 3 Preparation of 3-Bromoisonicotinic Acid Hydrochloride
To an RBF equipped with a condenser and outfitted with a heating mantle was placed the N-phenyl-3-bromo-isonicotinamide (34 g, 0.123 mol) and 200 ml of 25% HCl. The reaction was left to stir for 3 days. The mixture was cooled to room temperature, and diluted with ethyl acetate. The aqueous layer was extracted and the two layers separated. To the aqueous layer, solid Na2CO3 was added until the pH˜4-5 and a dark oil layer appeared. This was then diluted and extracted with ethyl acetate. The two layers were separated and the aqueous layer was concentrated under reduced pressure to give an off-white solid. To this 100 ml of 2M HCl was added and the solids collected. The off-white solids were placed in a vacuum oven at 60° C. overnight. Yield: 22.4 g (76% th).

reactant | N-phenyl-3-bromo-isonicotinamide | 0.123 mol, 34 g | C1(=CC=CC=C1)NC(C1=C(C=NC=C1)Br)=O | C12H9BrN2O
reactant | HCl | 200 ml | Cl | ClH
reactant | HCl | 2M, 100 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromoisonicotinic Acid Hydrochloride | Cl.BrC1=C(C(=O)O)C=CN=C1 | InChI=1S/C6H4BrNO2.ClH/c7-5-3-8-2-1-4(5)6(9)10;/h1-3H,(H,9,10);1H
